US04886813
(b) Preparation of N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine (β-isomer)
The β-isomer of N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine t-butyl ester (2.4 g) prepared above was dissolved in 10 ml of TFA and the solution was stirred at room temperature for 3 hours. The TFA was evaporated off under reduced pressure. The residue was poured into ice water and adjusted to a pH of 4 with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with methylene chloride. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was recrystallized from methylene chloride-ether, giving the β-isomer of the title compound. Yield 1.8 g. M.p. 124° to 126° C.

reactant | N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine t-butyl ester | 2.4 g | C(C)(C)(C)OC([C@@H](N[C@@H](CSCCCCCCC)C(=O)OCC)C)=O | C19H37NO4S
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(R)-1-ethoxycarbonyl-2-heptylthioethyl]-alanine | C(C)OC(=O)[C@H](CSCCCCCCC)N[C@@H](C)C(=O)O | C15H29NO4S
